datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:29])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22](=[C:21]([H:27])[H:28])[H:29])([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:11],72.0066
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],32.2168
[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],17.1544
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])[H:13])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])[H:13])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:19],63.1784
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][O:14],175.60248
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:8])([H:6])[H:7],53.9318
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:22])[H:12],45.773
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]1([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])[H:9],17.6146
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([S:9][H:20])([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:19])[H:4].[C:7]([C:8]([S:9][H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:16])([H:17])[H:18],15.0624
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:9])[H:10],51.7561
[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])[O:3][H:10])([H:4])([H:5])[H:6].[O:11][O:12]>>[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[H:10][O:11][O:12],0.0
[C:0]([N:1]=[O:2])([H:3])([H:4])[H:5].[O:6]>>[C:0]([N:1]=[O:2])([H:4])[H:5].[H:3][O:6],15.129344
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[H:6],-10.2508
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([O:13][H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[O:13][C:12]([H:14])([H:15])[H:16])[H:5].[H:17],198.253
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13](=[C:14]([H:16])[H:17])[H:15])[H:7])([H:5])[H:6],17.9912
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([H:9])[H:10])[H:8])([H:6])([H:7])[H:13].[C:3](=[C:4]([C:5]([H:15])([H:16])[H:17])[H:14])([H:11])[H:12],226.0
[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[C:4](=[C:5]([H:10])[H:11])[H:9])[H:6].[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:12])[C:4](=[C:5]([H:10])[H:11])[H:9])[H:6],-5.39736
